US05521188
B. 3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-amino-3-cyclobuten-3-yl)-1H-indole (I-6)
To a solution of 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-amino-3-cyclobuten-3-yl)-1-triisopropylsilylindole (0.280 g, 0.465 mmol) in 10 mL of acetonitrile was added 48% HF (34 μL, 0.94 mmol) and the mixture was stirred at room temperature for 2 h. The resulting suspension was filtered and the residue was washed with acetonitrile and ether, and then it was air-dried to give a pale yellow solid. The solid was suspended in saturated aqueous NaHCO3 with vigorous stirring and the suspension was then filtered and the residue was washed with water, a little ethanol and finally with ether. This material was dried in vacuo to give the title compound (0.194 g, 94%) as a yellow solid. Crystallization from ethanol afforded the analytical sample (0.141 g, 68%) as a beige solid, mp 233° C. (dec): IR (KBr) 3330, 3195, 1772, 1700, 1660, 1577 cm-1 ; 1H NMR (DMSO-d6, 200 MHz) d 11.15 (br s, 1H), 8.93 (br s, 1H), 8.83 (br s, 1H), 8.27 (s, 1H), 8.22 (s, 1H), 8.01 (s, 1H), 7.83 (d, J=8.5 Hz, 1H), 7.44 (d, J=8.5 Hz, 1H), 7.24 (s, 1H), 3.81 (s, 3H), 3.67 (br s, 4H), 2.81-2.73 (m, 2H), 2.49-2.35 (m, 6H), 1.88-1.81 (m, 2H). Anal. Calcd for C24H26N6O3. 0.5 H2O. 0.25 C2H6O: C, 63.06; H, 6.12; N, 18.08. Found: C, 63.32; H, 5.83; N, 17.73.

reactant | 3-[3-[4-(5-methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-amino-3-cyclobuten-3-yl)-1-triisopropylsilylindole | 0.465 mmol, 0.280 g | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CN(C2=CC=C(C=C12)C=1C(C(C1N)=O)=O)[Si](C(C)C)(C(C)C)C(C)C | C33H46N6O3Si
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-[3-[4-(5-Methoxy-4-pyrimidyl)-1-piperazinyl]propyl]-5-(1,2-dioxo-4-amino-3-cyclobuten-3-yl)-1H-indole | 0.194 g, 94% | COC=1C(=NC=NC1)N1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)C=1C(C(C1N)=O)=O | C24H26N6O3
